US04326068
Into a 500 mL flask as described in Example II was charged 48 g (1.50 mole) of sulfur, 5 g (0.086 mole) anh. KF and 200 mL of dimethyl sulfoxide. Hexafluoropropene (133 g, 0.89 mole) was reacted over a 6 hour period at 55° C. to give 104 g (0.275 mole) of crude hexafluorothioacetone dimer for a 62% conversion and yield.

reactant | sulfur | 1.50 mole, 48 g | [S] | S
reactant | KF | 0.086 mole, 5 g | [F-].[K+]
reactant | Hexafluoropropene | 0.89 mole, 133 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | hexafluorothioacetone | 0.275 mole, 104 g | FC(C(=S)C(F)(F)F)(F)F | C3F6S
